US04966967
9-(1H-Imidazol-1-yl)-4-[(4-methylphenyl)sulfonyl]-3,4,5,6-tetrahydro-2H-1,7,4-benzodioxazonine
To reagent alcohol at 60° C. simultaneously add a solution of 9-amino-4-[(4-methylphenyl)sulfonyl]-3,4,5,6-tetrahydro-2H-1,7,4-benzodioxazonine and ammonium hydroxide diluted with alcohol and a solution of aqueous glyoxal and aqueous formaldehyde diluted to an equal volume with alcohol as the above solution. Monitor the progress of the reaction by thin-layer chromatography. Upon completion partition the reaction between ethyl acetate and aqueous NaHCO3. Separate and dry the organic layer (Na2SO4). Remove the solvent in vacuo to obtain the title compound.

reactant | 9-amino-4-[(4-methylphenyl)sulfonyl]-3,4,5,6-tetrahydro-2H-1,7,4-benzodioxazonine | NC1=CC2=C(OCCN(CCO2)S(=O)(=O)C2=CC=C(C=C2)C)C=C1 | C17H20N2O4S
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | glyoxal | C(=O)C=O | C2H2O2
reactant | formaldehyde | C=O | CH2O
product | 9-(1H-Imidazol-1-yl)-4-[(4-methylphenyl)sulfonyl]-3,4,5,6-tetrahydro-2H-1,7,4-benzodioxazonine | N1(C=NC=C1)C1=CC2=C(OCCN(CCO2)S(=O)(=O)C2=CC=C(C=C2)C)C=C1 | C20H21N3O4S
